US04806145
A stirred mixture of 100.0 g (0.73 mole) of 4-methyl-3-methoxyaniline in 800 mL of concentrated hydrochloric acid was cooled to -5° C. A solution of 501.5 g (0.73 mole) of sodium nitrite in 250 mL of water was added slowly while maintaining the temperature of the reaction mixture below 0° C. The resultant mixture was stirred at -5° C. for 30 minutes. A cold solution of 330.0 g (1.46 mole) of tin (II) chloride dihydrate in 360 mL of concentrated hydrochloric acid was added over one hour. After complete addition the resultant mixture was allowed to warm to room temperature. A solid precipitate formed and was collected by filtration and stirred in 200 mL of water. This mixture was neutralized with 50% aqueous sodium hydroxide, and extracted with toluene. The extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 58.0 g of 4-methyl-3-methoxyphenylhydrazine as an oil.

reactant | 4-methyl-3-methoxyaniline | 0.73 mole, 100.0 g | CC1=C(C=C(N)C=C1)OC | C8H11NO
reactant | sodium nitrite | 0.73 mole, 501.5 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride dihydrate | 1.46 mole, 330.0 g | O.O.[Sn](Cl)Cl
solvent | hydrochloric acid | 800 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
solvent | hydrochloric acid | 360 mL | Cl | ClH
product | 4-methyl-3-methoxyphenylhydrazine | 58.0 g | CC1=C(C=C(C=C1)NN)OC | C8H12N2O
